US07326732B2
(iii) 2-{3-[(5-Bromo-furan-2-carbonyl)-amino]-benzylidene}-butyric acid ethyl ester
5-Bromo-furan-2-carboxylic acid (88 mg, 0.46 mmol) was coupled to 2-(3-amino-benzylidene)-butyric acid ethyl ester (100 mg, 0.46 mmol) using Method C to give the title compound.

reactant | 5-Bromo-furan-2-carboxylic acid | 0.46 mmol, 88 mg | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | 2-(3-amino-benzylidene)-butyric acid ethyl ester | 0.46 mmol, 100 mg | C(C)OC(C(CC)=CC1=CC(=CC=C1)N)=O | C13H17NO2
product | 2-{3-[(5-Bromo-furan-2-carbonyl)-amino]-benzylidene}-butyric acid ethyl ester | C(C)OC(C(CC)=CC1=CC(=CC=C1)NC(=O)C=1OC(=CC1)Br)=O | C18H18BrNO4
